US07432279B2
4-(3-methylphenylamino)-6-(pyridin-3-ylmethylamino)-1,7-naphthyridine-3-carbonitrile
In a microwave vial, 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile (0.200 g, 0.963 mmol) and m-toluidine (0.11 mL, 0.11 g, 1.1 mmol) were taken up in 5 mL DME. The vial was crimp-sealed and heated in a microwave reactor at 140° C. for 10 minutes. 3-(aminomethyl)pyridine (2.0 mL, 2.1 g, 19 mmol) was then added, and the reaction was heated at 200° C. for 30 minutes. To work up the reaction, the vial contents were partitioned between EtOAc and brine. The aqueous layer was extracted with additional EtOAc, and the combined organic extracts washed with water and evaporated. The crude product was purified twice by preparative HPLC, and lyophilized to give a fluffy, bright yellow solid (7.5 mg, 2.1% yield): 1H NMR (400 MHz, DMSO-D6) δ 2.31 (s, 3 H) 4.55 (d, J=4.0 Hz, 2 H) 7.06 (s, 3 H) 7.16 (s, 1 H) 7.21-7.39 (m, 2 H) 7.44 (s, 1 H) 7.75 (d, J=7.6 Hz, 1 H) 8.22 (s, 1 H) 8.43 (s, 1 H) 8.59 (s, 1 H) 8.82 (s, 1 H) 9.61 (br s, 1 H).

reactant | 4-chloro-6-fluoro-1,7-naphthyridine-3-carbonitrile | 0.963 mmol, 0.200 g | ClC1=C(C=NC2=CN=C(C=C12)F)C#N | C9H3ClFN3
reactant | m-toluidine | 1.1 mmol, 0.11 mL, 0.11 g | NC1=CC(=CC=C1)C | C7H9N
reactant | 3-(aminomethyl)pyridine | 19 mmol, 2.0 mL, 2.1 g | NCC=1C=NC=CC1 | C6H8N2
solvent | DME | 5 mL | COCCOC | C4H10O2
product | 4-(3-methylphenylamino)-6-(pyridin-3-ylmethylamino)-1,7-naphthyridine-3-carbonitrile | 7.5 mg, 2.1% yield | CC=1C=C(C=CC1)NC1=C(C=NC2=CN=C(C=C12)NCC=1C=NC=CC1)C#N | C22H18N6
